US04376783
1-(2-methyl 1-phenyloxy, 2-hydroxy propyl) 1-cyclohexyl 3-phenyl urea-Product SCS 303
5.26 g (0.02 mole) of(2-methyl 1-phenyloxy 2-hydroxy propyl)-cyclohexylamine is dissolved in 300 ml of benzene. 2.38 g (0.02 mole) of phenylisocyanate were added. Slight heating was observed as well as the appearance of a solid. It was heated under reflux for 1 hour. After cooling, it was filtered and the product was recrystallized in ethanol. Melting point 164° C.

reactant | phenylisocyanate | 0.02 mole, 2.38 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 1-cyclohexyl 3-phenyl urea | C1(CCCCC1)NC(=O)NC1=CC=CC=C1 | C13H18N2O
